US04940710
A mixture of 337 mg of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 1.2 g of 1-(phenylsulfonyl)-3-(2-piperazinyl)-1H-pyrrole and 5 ml of pyridine was heated in a pressure bottle at 135° C. for 16 hours, then allowed to cool and the pyridine removed under reduced pressure. The crude substance was purified by column chromatography using chloroform:methanol:water:triethylamine (9:0.5:0.01:0.01), giving 270 mg of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-[1-(phenylsulfonyl)-1H-pyrrol-3-yl]-1-piperazinyl]-3-quinolinecarboxylic acid.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 337 mg | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | 1-(phenylsulfonyl)-3-(2-piperazinyl)-1H-pyrrole | 1.2 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=C1)C1NCCNC1 | C14H17N3O2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-[1-(phenylsulfonyl)-1H-pyrrol-3-yl]-1-piperazinyl]-3-quinolinecarboxylic acid | 270 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C1=CN(C=C1)S(=O)(=O)C1=CC=CC=C1)F)=O)C(=O)O | C27H25FN4O5S
